** sch_path: CDR4176-main/schematic/xschem/inv/inv.sch
.subckt inv_CDR VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends
